US03984427
To a solution of 1.0 g. (4.88 mmoles) of 3,5-dimethyl-4-(3,4-dihydro-2H-pyran-2-ylvinyl) isoxazole, prepared as described above, in 10 ml. of ethanol was added 5 drops of 1N sulfuric acid. The solution was stirred at room temperature overnight, poured into excess saturated aqueous sodium bicarbonate solution, and extracted with ether. The ether extracts were washed with water and saturated brine and dried over anhydrous sodium sulfate. Solvent removal gave 1.25 g. of pale yellow liquid whose infrared spectrum indicated that formation of racemic 3,5-dimethyl-4-(6-ethoxytetrahydropyran-2- ylvinyl)-isoxazole was complete. This material was taken up in 10 ml. of ethyl acetate. To this solution was added 25 mg. of 10 percent palladium on carbon and the resulting mixture was hydrogenated at room temperature and atmospheric pressure. After 2 hrs., one equivalent of hydrogen had been consumed and uptake ceased. The catalyst was removed by filtration and washed with fresh ethyl acetate. Solvent removal from the filtrates gave 1.28 g. of racemic 3,5-dimethyl-4-(6-ethoxytetrahydropyran-2-ylethyl)-isoxazole as a colorless oil whose infrared spectrum indicated that the hydrogenation was complete. This crude acetal was taken up in 20 ml. dioxane. To the flask was added 10 ml. of 1N sulfuric acid and the resulting solution was stirred at room temperature for 4 hrs. It was then poured into excess saturated aqueous sodium bicarbonate solution and extracted with ether. The ether extracts were washed with saturated brine and dried over anhydrous sodium sulfate. Solvent removal gave racemic 3,5-dimethyl-4-(6-hydroxytetrahydropyran-2-ylethyl)-isoxazole as a viscous oil. The crude hemiketal was taken up in 25 ml. of 1,2-dichloroethane, degassed and placed under nitrogen. To the flask was added 7.5 g of manganese dioxide and the resulting suspension was stirred at room temperature overnight. The manganese dioxide was removed by filtration and washed with fresh solvent. Solvent removal from the filtrates gave a pale yellow resin which was crystallized from ether at -20° C. to give the desired lactone, 3,5-dimethyl-4-(6-hydroxytetrahydropyran-2-ylethyl)-isoxazole, as a white solid of m.p. 60°-62°.

reactant | 3,5-dimethyl-4-(3,4-dihydro-2H-pyran-2-ylvinyl) isoxazole | 4.88 mmoles | CC1=NOC(=C1C=CC1OC=CCC1)C | C12H15NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | racemic 3,5-dimethyl-4-(6-ethoxytetrahydropyran-2- ylvinyl)-isoxazole | CC1=NOC(=C1C=CC1OC(CCC1)OCC)C | C14H21NO3
reactant | hydrogen | one equivalent | [H][H] | H2
reactant | racemic 3,5-dimethyl-4-(6-ethoxytetrahydropyran-2-ylethyl)-isoxazole | CC1=NOC(=C1CCC1OC(CCC1)OCC)C | C14H23NO3
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
catalyst | sulfuric acid | 1N, 5 drops | S(O)(O)(=O)=O | H2O4S
catalyst | palladium on carbon | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | racemic 3,5-dimethyl-4-(6-hydroxytetrahydropyran-2-ylethyl)-isoxazole | CC1=NOC(=C1CCC1OC(CCC1)O)C | C12H19NO3
